US06951879B2
In analogy to example 3.1, 6-(3-Bromo-propoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene and N-(2-methoxyethyl)ethylamine were converted to yield Ethyl-{3-[3-(4-fluoro-phenyl)-benzo[b]thiophen-6-yloxy]-propyl}-(2-methoxy-ethyl)-amine as colorless oil, MS: 388 (MH+).

reactant | 6-(3-Bromo-propoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene | BrCCCOC=1C=CC2=C(SC=C2C2=CC=C(C=C2)F)C1 | C17H14BrFOS
reactant | N-(2-methoxyethyl)ethylamine | COCCNCC | C5H13NO
product | Ethyl-{3-[3-(4-fluoro-phenyl)-benzo[b]thiophen-6-yloxy]-propyl}-(2-methoxy-ethyl)-amine | C(C)N(CCOC)CCCOC=1C=CC2=C(SC=C2C2=CC=C(C=C2)F)C1 | C22H26FNO2S
